US04115568
(i) Methyl 3-(2-nitroanilino)-thiophene-2-carboxylate
The title compound was prepared using the process of Example 1(a) but with 2-fluoro-nitrobenzene and methyl 3-aminothiophene-2-carboxylate (U.K. Pat. No. 837,086) as starting materials, m.p. 184° C., (toluene/MeOH, 2:1).

reactant | 2-fluoro-nitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | methyl 3-aminothiophene-2-carboxylate | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
solvent | toluene MeOH | C1(=CC=CC=C1)C.CO
product | Methyl 3-(2-nitroanilino)-thiophene-2-carboxylate | [N+](=O)([O-])C1=C(NC2=C(SC=C2)C(=O)OC)C=CC=C1 | C12H10N2O4S
